US20010029256A1
Dibenzosuberenol (2.08 g, 10 mmol) was dissolved in dry THF (20 mL) at 0° C. Sodium hydride (1.0 g of 50% mineral oil dispersion, 20 mmol) was added. After 10 min. tert-butylbromoacetate (4.0 g, 20.0 mmol) was added over a period of 20 min and then stirred for 1 h. The reaction mixture was quenched with water at 0° C. and the product extracted with ethyl acetate. The combined extracts were dried (MgSO4), and concentrated in vacuo. The product was-redissolved in ether (20 mL) and added dropwise to an ether (15 mL) suspension of lithium aluminium hydride (190 mg, 5.0 mmol). The reaction was stirred 16 h at room temperature, quenched with water. The ether solution was washed with water, dried, and concentrated in vacuo to give 1.3 g (50%) of 2-(5H-dibenzo[a,d]cyclohepten-5-yloxy)-ethanol.

reactant | Dibenzosuberenol | 10 mmol, 2.08 g | C1=CC=C2C(C3=CC=CC=C3C=CC2=C1)O | C15H12O
reactant | Sodium hydride | 20 mmol, 1.0 g | [H-].[Na+]
reactant | tert-butylbromoacetate | 20.0 mmol, 4.0 g | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
reactant | lithium aluminium hydride | 5.0 mmol, 190 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | ether | 15 mL | CCOCC | C4H10O
product | 2-(5H-dibenzo[a,d]cyclohepten-5-yloxy)-ethanol | 1.3 g, 50% | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)OCCO | C17H16O2
